US04076712
4-Methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one
1.8 g. of pyrazolo[1,5 -a]pyrido[2,3-d]pyrimidin-9(4H)-one are suspended in 10 ml. of methanol. 0.6 g. of potassium hydroxide are added and the mixture is stirred for 30 minutes. After this time, the potassium salt is filtered off and, after drying, suspended in 20 ml. of diethyleneglycol dimethyl ether. 2.5 g. of methyl iodide are added with stirring. After 20 minutes, 4-methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one is filtered off, washed with water and recrystallized from methanol, yield: 1.1 g. (55%); m.p. 249.2°.

reactant | pyrazolo[1,5 -a]pyrido[2,3-d]pyrimidin-9(4H)-one | N1=CC=C2N1C(C1=C(N2)N=CC=C1)=O | C9H6N4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | CO | CH4O
product | 4-Methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one | CN1C=2N(C(C3=C1N=CC=C3)=O)N=CC2 | C10H8N4O
